Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
iodine
 
Attending: ___.
 
Chief Complaint:
hypertensive urgency  

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ year old man with a history of DM2, CAD, CHF and 
schizoaffective disorder who was referred to the emergency 
department from ___ with hypertensive urgency. Patient 
underwent new patient evaluation at ___ today and was noted 
to be hypertensive to 230/130 with decreased lung sounds at the 
bases. The patient was then sent to ED for further management of 
hypertensive. At the time, the patient complained of leg 
swelling, but was otherwise asymptomatic.  
In the ED, initial VS: 98.3 72 190/110 16 100%. Labs notable for 
BNP of 7000. EKG with old inferior infarct, PR prolongation and 
IV conduction delay. No evidence of acute ischemia or LVH. No 
medication was administered for hypertensive urgency. The 
patient was noted to have pulmonary edema and a right pleural 
effusion on CXR. He was admitted to medicine for further workup. 
VS prior to transfer: 97.3 76 173/98 19 100%.  
On the floor, the patient denies acute complaints. No chest 
pain, shortness of breath, headache, vision changes, 
palpitations. The patient has known CAD and CHF, but denies 
having "fluid in his lungs" in the past. He does not know what 
his heart function is. He endorses increasing lower extremity 
edema over the past few weeks. He denies orthopnea or PND.  
 
REVIEW OF SYSTEMS:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, nausea, vomiting, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.  
 

 
Past Medical History:
CHF - EF 25% as per PCP records
CAD - inferior infarct in ___, patient claims no stents done 
"brittle" DM 2 - diagnosed at age ___ now off insulin due to 
hypoglycemic episodes  
Hypertension  
Schizoaffective disorder  
PTSD  
legally blind with detached retina  
bilateral cateracts  
 

 
Social History:
___
Family History:
Denies significant history.
 
Physical Exam:
ADMISSION EXAM
VS: Tc 97.6 173/100 72 18 100%  RA Fingerstick 214  
GENERAL: comfortable appearing male, reluctant to answer 
questions because he wants to sleep  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, JVP to angle of jaw  
LUNGS: bibasilar crackles; otherwise CTAB  
HEART: RRR, no MRG, nl S1-S2  
ABDOMEN: soft, non-tender, non-distended  
EXTREMITIES: WWP, 2+ pitting edema bilaterally in lower 
extremities to low thigh  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout  

DISCHARGE EXAM
VS: Tc 98.0 Tm 98.1  173/93 (132-173/77-100)  68 18 97% RA
I/O -1000 past midnight; 24H ___   weight 130 -> 128.4 -> 
128.6 today
___: 160s->236
GEN: awake, alert, in NAD 
HEENT: NCAT, MMM, EOMI, sclera anicteric, OP clear  
NECK: supple, has JVD below the mandible, no LAD  
PULM: good air entry, clear to auscultation bilaterally, no 
wheezes, rales or ronchi appreciated  
CV: RRR, normal, S1/S2, no mrg  
ABD: soft, NT, ND, normoactive bowel sounds, no r/g  
EXT WWP 2+ pulses palpable bilaterally, has 2+ PE to mid calf
bilaterally  
NEURO CNs2-12 intact, motor function grossly normal  
SKIN no ulcers or lesions  

 
Pertinent Results:
ADMISSION LABS

___ 07:10PM   GLUCOSE-92 UREA N-19 CREAT-1.0 SODIUM-143 
POTASSIUM-3.7 CHLORIDE-105 TOTAL CO2-27 ANION GAP-15
___ 07:10PM   ALT(SGPT)-23 AST(SGOT)-37 ALK PHOS-139* TOT 
BILI-0.7
___ 07:10PM   cTropnT-0.01 proBNP-6217*
___ 07:10PM   ALBUMIN-3.2* CALCIUM-9.3 PHOSPHATE-3.6 
MAGNESIUM-1.9
___ 07:10PM   WBC-5.7 RBC-5.06 HGB-15.0 HCT-46.2 MCV-91 
MCH-29.7 MCHC-32.5 RDW-13.7
___ 07:10PM   NEUTS-69.3 ___ MONOS-5.3 EOS-1.6 
BASOS-0.7
___ 07:10PM   PLT COUNT-205
___ 08:35AM BLOOD ASA-NEG Acetmnp-NEG Bnzodzp-NEG 
Barbitr-NEG Tricycl-NEG

DISCHARGE LABS

___ 06:12AM BLOOD WBC-5.4 RBC-4.53* Hgb-13.3* Hct-41.4 
MCV-91 MCH-29.4 MCHC-32.3 RDW-14.0 Plt ___
___ 06:40AM BLOOD Glucose-178* UreaN-26* Creat-1.2 Na-141 
K-4.1 Cl-104 HCO3-31 AnGap-10
___ 08:55PM BLOOD Glucose-151* UreaN-25* Creat-1.1 Na-137 
K-4.2 Cl-100 HCO3-31 AnGap-10
___ 06:40AM BLOOD Calcium-9.0 Phos-3.3 Mg-2.1

MICRO
NONE

REPORTS

 ECG Study Date of ___  8:37:58 ___ 

Sinus rhythm with A-V conduction delay. Non-specific 
intraventricular 
conduction delay of the left bundle-branch block type. Possible 
inferior 
myocardial infarction, age indeterminate. Poor R wave 
progression. 
Non-specific ST-T wave abnormalities. No previous tracing 
available for 
comparison.  

CHEST (PA & LAT) Study Date of ___ 6:33 ___ 

IMPRESSION: 
  
Apparently elevated right hemidiaphragm with configuration 
raising possibility of subpulmonic effusion.  Lateral decubitus 
films could help clarify.  Right basilar opacity could be due to 
adjacent atelectasis noting that infection is not excluded.  
Cardiomegaly. 
  
___ ECHOCARDIOGRAPHY REPORT
  TTE (Complete) Done ___ at 2:23:07 ___      FINAL 

Normal left ventricular cavity size and right ventricular cavity 
dilation with regional biventricular systolic dysfunction (LVEF 
= 40 %) c/w CAD/chronic infarction ___ RCA distribution). 
Pulmonary artery hypertension. Mild mitral regurgitation. 
 
Brief Hospital Course:
___ year old male hx. DM, CAD, CHF, schizoaffective disorder 
presenting with findings of CHF exacerbation and hypertensive 
urgency/emergency. 

# Acute on chronic systolic CHF exacerbation:  Patient appeared 
to be in significant right sided heart failure with bilateral ___ 
edema, elevated BNP.  Patient was diuresed effectively with 40 
mg IV lasix daily.  He was negative 1.5-2.0 liters daily with 
this regimen.  Patient's most recent PCP was contacted for 
records which revealed patient has had problems with anasarca 
and noncompliance with CHF regimen for quite some time.  Most 
recent ECHO from PCP showed ischemic cardiomyopathy with EF 25%. 
 Patient underwent repeat ECHO this admission which showed EF 
40% with biventricular systolic dysfunction.  CHF service was 
consulted who recommended patient be discharged on oral 
torsemide 20 mg daily.  His lisinopril was continued.  
Metoprolol was switched to carvedilol as below.  He has followup 
with his PCP to continue to address his CHF regimen, and would 
benefit from close monitoring and referral to cardiology.

# Hypertensive urgency/emergency: patient largely asymptomatic 
on admission but could qualified as hypertensive emergency given 
pulmonary effusion, signs of CHF on exam, elevated BNP.  
Patient's pressures came down with administration of home 
antihypertensive regimen of metoprolol and lisinopril as well as 
lasix.  Amlodipine 5 mg daily was added from hospital day ___ 
but pressures remained elevated in the 150-170s systolic range.  
Out of concern for worsening his cardiac function, decision was 
made to not increase amlodipine but to substitute carvedilol for 
metoprolol for its added antihypertensive properites.   
Pressures remained elevated but improved on day of discharge in 
the 150s-170s range.  Patient would benefit from close 
monitoring of renal function and titration of antyhypertensive 
regimen going forward.

# CAD s/p inferior MI: patient had evidence of old inferior MI 
on EKG, no signs or symptoms to suggest ACS on admission, 
troponin was neg x1.  As per self report, patient had MI in ___ 
and said he did not receive stents.  Most recent PCP also could 
not confirm if he was stented or not.  His metoprolol was 
switched to carvedilol as above and he was continued on aspirin, 
lisinopril, and simvastatin.  

# DM: held oral regimen and placed on ISS in house, ___ remained 
well controlled.       

TRANSITIONAL ISSUES
1.  Patient has a follow-up appointment with new PCP to continue 
to address CHF and antihypertensive regimen.  Most recent PCP 
was also contacted and notified of admission.
2.  Patient was visited by social work re: resources for the 
blind, support was giving re: new housing search as well as 
transportation and ID.
3.  Patient remained full code.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 40 mg PO DAILY 
2. Omeprazole 20 mg PO DAILY 
3. Metoprolol Succinate XL 25 mg PO DAILY 
4. MetFORMIN (Glucophage) 1000 mg PO BID 
5. Lisinopril 40 mg PO DAILY 
6. Furosemide 20 mg PO DAILY 
7. glimepiride *NF* 1 mg Oral daily 
8. EpiPen *NF* (EPINEPHrine) 0.3 mg/0.3 mL (1:1,000) Injection 
prn anaphylaxis? 
9. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. Simvastatin 40 mg PO DAILY 
5. Carvedilol 12.5 mg PO BID 
RX *carvedilol 12.5 mg 1 tablet(s) by mouth twice a day Disp 
#*30 Tablet Refills:*3
6. EpiPen *NF* (EPINEPHrine) 0.3 mg/0.3 mL (1:1,000) Injection 
prn anaphylaxis? 
7. glimepiride *NF* 1 mg ORAL DAILY 
8. MetFORMIN (Glucophage) 1000 mg PO BID 
9. Torsemide 20 mg PO DAILY 
RX *torsemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Hypertensive Emergency
         Acute on Chronic Systolic CHF

Secondary: CAD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___.  You were 
admitted for high blood pressure and were found to be in heart 
failure.  You were given medications to remove fluid from your 
body and your heart failure improved.  The following changes 
were made to your medications:

Please START torsemide 20 mg daily- this is a diuretic that will 
help take the fluid off of your legs. Take this medication 
instead of the lasix.
Please START carvedilol- his is for your heart and blood 
pressure

Please STOP lasix
Please STOP metoprolol

 
Followup Instructions:
___